US06344449B1
5-chloro-3,4-dihydro-3-(4-piperidinyl)-2(1H)-quinazolinone
An ice-cold solution of 6.3 g (0.0177 mol) of 5-chloro-3,4-dihydro-3-[1-(phenylmethyl)-4-piperidinyl]-2(1H)-quinazolinone (prepared analogously to Example A4e)) in 50 ml of dichloromethane was mixed dropwise with 3.34 g (0.0234 mol) of α-chloroethyl chlorocarbonate whilst maintaining a reaction temperature of 0° C., after which the mixture was allowed to come back slowly to room temperature. The reaction mixture was evaporated down in vacuo, the residue was taken up in 50 ml of methanol and refluxed for 4 hours. After cooling, the colourless precipitate formed was suction filtered. Yield: 2.0 g (42.5% of theory).

reactant | 5-chloro-3,4-dihydro-3-[1-(phenylmethyl)-4-piperidinyl]-2(1H)-quinazolinone | 0.0177 mol, 6.3 g | ClC1=C2CN(C(NC2=CC=C1)=O)C1CCN(CC1)CC1=CC=CC=C1 | C20H22ClN3O
reactant | α-chloroethyl chlorocarbonate | 0.0234 mol, 3.34 g | C(OC(C)Cl)(=O)Cl | C3H4Cl2O2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 5-chloro-3,4-dihydro-3-(4-piperidinyl)-2(1H)-quinazolinone | ClC1=C2CN(C(NC2=CC=C1)=O)C1CCNCC1 | C13H16ClN3O
